US07335457B2
100 g of carbazole, 117 g of t-butyl bromoacetate, and 67 g of t-butoxy potassium were dissolved in 1,000 g of dimethylformamide. The mixture was reacted overnight at room temperature. After the addition of 300 g of 5 wt % oxalic acid aqueous solution, the reaction mixture was extracted with 2,000 g of n-hexane. Precipitate obtained by crystallization in a mixed solvent of 500 g of dimethylformamide and 500 g of n-hexane was dried under vacuum to obtain 79 g of N-(t-butoxycarbonylmethyl)carbazole as a white solid. This compound is indicated as “other dye (D-2)”.

reactant | carbazole | 100 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | t-butyl bromoacetate | 117 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | t-butoxy potassium | 67 g | C(C)(C)(C)O[K]
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | dimethylformamide | 1,000 g | CN(C=O)C | C3H7NO
product | N-(t-butoxycarbonylmethyl)carbazole | 79 g | C(C)(C)(C)OC(=O)CN1C2=CC=CC=C2C=2C=CC=CC12 | C18H19NO2
